* C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Downloads\Draft3.asc
M1 N001 NC_01 0 0 IRFZ44N
R1 N002 N001 100
VDS N002 N005 11
R2 N004 N003 1K
VGS N003 N005 SINE(0 0.5 10000)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc dec VGS 0 11 0.5
.backanno
.end
