* C:\Users\DRA\Dropbox\My PC (DESKTOP-MR1852M)\Documents\Non inv op-amp.asc
XU1 N004 N002 N001 N005 N003 LT1001
V1 N001 0 20
V2 0 N005 20
V3 N004 0 SINE(0 3 300)
R1 N002 0 1.1k
R2 N003 N002 2.2k
.tran 0 0.085 0 0.005
.lib LTC.lib
.backanno
.end
